US06656938B2
Under a nitrogen atmosphere, 1-[2-(2-aminoethoxy)ethyl]-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine (0.75 g, 2.3 mmol) was dissolved in dichloromethane (30 mL) and triethylamine (0.64 mL, 4.6 mmol) using mild heat and vigorous stirring. The solution was chilled in an ice-water bath and 4-morpholinecarbonyl chloride (0.27 mL, 2.3 mmol) was added dropwise. The cooling bath was removed and the reaction was stirred for an additional 4 hours. The reaction was quenched by the addition of saturated sodium bicarbonate solution (25 mL). The phases were separated and the organic layer was washed with water (3×25 ml), brine (25 mL), dried (Na2SO4), filtered and concentrated to yield a yellow foam. The product was recrystallized from dichloromethane and ethyl acetate. The crystals were triturated with ether (2×5 mL) to remove residual solvent. The final product was dried in a vacuum oven to provide 200 mg of N-(2-{2-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl)morpholine-4-carboxamide as a tan crystalline solid, m.p. 164-166° C.

reactant | 1-[2-(2-aminoethoxy)ethyl]-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 2.3 mmol, 0.75 g | NCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C17H23N5O2
reactant | triethylamine | 4.6 mmol, 0.64 mL | C(C)N(CC)CC | C6H15N
reactant | 4-morpholinecarbonyl chloride | 2.3 mmol, 0.27 mL | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-(2-{2-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl)morpholine-4-carboxamide | 200 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCOCCNC(=O)N2CCOCC2)CCOC | C22H30N6O4
